US04304770
Ethyl 2-pentyloxyimino-3-oxo-4-chlorobutyrate (syn isomer) (51.1 g.) and thiourea (14.7 g.) were reacted in the presence of sodium acetate trihydrate (26.4 g.) in a mixture of water (125 ml.) and ethanol (175 ml.) according to a similar manner to that of Preparation (8-10) to give crystals of ethyl 2-pentyloxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate (syn isomer) (28.7 g.), mp 86° to 88° C.

reactant | Ethyl 2-pentyloxyimino-3-oxo-4-chlorobutyrate | 51.1 g | C(CCCC)ON=C(C(=O)OCC)C(CCl)=O | C11H18ClNO4
reactant | thiourea | 14.7 g | NC(=S)N | CH4N2S
reactant | sodium acetate trihydrate | 26.4 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | 125 ml | O | H2O
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | ethyl 2-pentyloxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate | 28.7 g | C(CCCC)ON=C(C(=O)OCC)C=1N=C(SC1)N | C12H19N3O3S
